US05760059
Ethyl 4,6-dichloro-3-formyl-1-tert-butoxycarbonyl-1H-indole-2carboxylate
To a suspension of 4,6-dichloro-3-formyl-1H-indole-2-carboxylic acid ethyl ester (8 g) in dry tetrahydrofuran (100ml) we added di-tert-butyl dicarbonate (7.3 g) and 4-dimethylaminopyridine (0.7 g). The reaction mixture was stirred at 25° for 2 hrs, then diluted with ethyl acetate (300 ml), washed with ammonium chloride (sat.) (200 ml), brine (200 ml), dried and concentrated in vacuo. The crude title compound was crystallized from ethyl acetate (8.6 g). T.I.c. EA/CH (112), Rf= 0.8. mp.=141°.

reactant | 4,6-dichloro-3-formyl-1H-indole-2-carboxylic acid ethyl ester | 8 g | C(C)OC(=O)C=1NC2=CC(=CC(=C2C1C=O)Cl)Cl | C12H9Cl2NO3
reactant | di-tert-butyl dicarbonate | 7.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 4,6-dichloro-3-formyl-1-tert-butoxycarbonyl-1H-indole-2carboxylate | ClC1=C2C(=C(N(C2=CC(=C1)Cl)C(=O)OC(C)(C)C)C(=O)OCC)C=O | C17H17Cl2NO5
